Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.31092334904
[C:7][O:8][H:9].[H:1][C:2]#[C:3][C:4][O:5][H:6]>>[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7][O:8][H:9],-0.716839443759
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:10]([H:11])[H:12],4.792222924780001
[C:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1](#[C:2]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12])[H:3],-2.06646058066
[O:1]=[C:2]1[C:3]([C:4]([H:5])([H:6])[H:7])[C:8][C:9]1([H:10])[H:11]>>[O:1]=[C:2][C:9]([C:8]#[C:3][C:4]([H:5])([H:6])[H:7])([H:10])[H:11],-0.25143935096000003
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20]>>[C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20],3.86419546813
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:2]#[C:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:7]([H:3])=[C:4]([H:5])[H:6],2.73269325019
[C:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1][C:2]#[C:3][C:4]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:5],2.24185958855
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],-4.63050984256
[C:4]([H:5])#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([C:3])([H:6])[H:7]>>[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]\[C:9]([H:10])([H:11])[H:12],-1.46877897683
[H:1][C:2]([H:3])[O:4][C:5]([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5]([O:6][C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9],3.87487401933
[H:4].[O:1]=[C:2]=[C:3][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-3.56722000076
[H:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:4],4.44474299518
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12].[H:3],2.00474642411
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]#[C:11][H:12],1.98679576348
[C:1]#[C:2][O:3][C:4]([H:5])[C:7]([O:8])([H:9])[H:10].[H:6]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([O:8])([H:9])[H:10],-3.95149059422
[H:1][O:2][C:3]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([C:4][C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:5],4.89585956614
[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.63786473943
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2],4.3494150789
[C:5]([H:6])=[C:7]([O:8][H:9])[O:10][H:11].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]([O:8][H:9])[O:10][H:11],-2.23695024682
[H:1][C:2]#[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10]>>[H:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:7])[O:9][H:10].[H:8],3.71859967329
[H:1][O:2][C:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[C:6]([H:7])[H:8].[H:1][O:2][C:3]#[C:4][H:5],4.49578337657
[O:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:2](#[C:3][O:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10].[O:1],3.05031638226
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[O:12][H:13],4.16524690247
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],1.28578189444
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.3915899853900005
[H:1][O:2][C:3].[O:4]=[C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9],-0.7395090344490001
[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-7.71747326
